US05554786
Acetoxylation of cycloheptene A 500 ml three-neck flask is charged with 15 g of cycloheptene (0.15 moles), 150 g of acetic acid, 0.77 g of benzoquinone (7 mmoles), 1 g of charcoal and 80 mg of palladium acetate (0.35 mmoles). The temperature is taken to 50°, then 8 g (0.17 moles) of 70% by weight hydrogen peroxide are introduced in 8 h, and the reaction is allowed to proceed for a further 2 h while maintaining the temperature at 50°. The acetic acid is then distilled (35°, 20×102Pa). The residue is distilled under vacuum (75°-80°, 15×102Pa) to provide cyclopent-2-en-1-yl acetate (14 g, yield 62%). cyclopent-2-en-1-yl acetate

reactant | cycloheptene | C1=CCCCCC1 | C7H12
reactant | cycloheptene | 0.15 moles, 15 g | C1=CCCCCC1 | C7H12
reactant | charcoal | 1 g | C | CH4
reactant | hydrogen peroxide | OO | H2O2
reactant | acetic acid | 150 g | C(C)(=O)O | C2H4O2
catalyst | palladium acetate | 0.35 mmoles, 80 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | benzoquinone | 7 mmoles, 0.77 g | C1(C=CC(C=C1)=O)=O | C6H4O2
product | cyclopent-2-en-1-yl acetate | 14 g, yield 62% | C(C)(=O)OC1C=CCC1 | C7H10O2
